US06552017B1
Sodium hydride (900 mg of 60% dispersion in oil; 22.5 mmol) was washed with hexane, and suspended in anhydrous dimethylformamide (5 mL). The suspension was added to a stirred solution of ethyl (6bR, 10aS)-2-oxo-2,3,6b,9,10,10a-hexahydro-1H-pyrido[3′,4′:4,5]pyrrolo[1,2,3-de]quinoxaline-8(7H)-carboxylate (6.02 g, 20 mmol) in anhydrous dimethylformamide (50 mL) under nitrogen. After gas evolution had subsided, the mixture was cooled in ice-water bath and treated with iodomethane (3.55 g., 25 mmol). The mixture was stirred at room temperature for 1 h and then concentrated. The residue was treated with water and extracted with dichloromethane (2×) and the extract was washed with brine, dried over magnesium sulfate and evaporated to dryness to yield 5.48 g (87%) of ethyl (6bR,10aS)-3-methyl-2-oxo-2,3,6b,9,10,10a-hexahydro-1H-pyrido[3′,4′:4,5]pyrrolo[1,2,3-de]quinoxaline-8(7H)-carboxylate as a tan solid, m.p. 149-151° C. (dec.). [M+H] calc. 316; found 316. 1H NMR (CDCl3, 300MHz) δ 1.28 (t, J=7.3 Hz, 3H), 1.85 to 1.93 (m,1H), 2.65 to 2.82 (m, 1H),3.08 to 3.25 (m, 1H), 3.25 to 3.40 (m, 1H),3.30-3.50 (m, 1H), 3.34 (s, 3H), 3.42 (d, J=14.3 Hz, 1H), 3.85 to 4.0 (m,1H), 4.02 (d, J=14.3 Hz, 1H, 4.15 (q, J=7.2 Hz, 4H), 6.76 (d, J=8.1 Hz, 1H), 6.83 (t, J=7.3 Hz, 1H), 6.90 (d, J=7.3 Hz, 1H). MS (CI): 316 (M+H+).

reactant | Sodium hydride | 22.5 mmol, 900 mg | [H-].[Na+]
reactant | ethyl (6bR, 10aS)-2-oxo-2,3,6b,9,10,10a-hexahydro-1H-pyrido[3′,4′:4,5]pyrrolo[1,2,3-de]quinoxaline-8(7H)-carboxylate | 20 mmol, 6.02 g | O=C1NC=2C=CC=C3C2N(C1)[C@@H]1[C@H]3CN(CC1)C(=O)OCC | C16H19N3O3
reactant | iodomethane | 25 mmol, 3.55 g | IC | CH3I
solvent | hexane | CCCCCC | C6H14
solvent | dimethylformamide | 5 mL | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 50 mL | CN(C=O)C | C3H7NO
product | ethyl (6bR,10aS)-3-methyl-2-oxo-2,3,6b,9,10,10a-hexahydro-1H-pyrido[3′,4′:4,5]pyrrolo[1,2,3-de]quinoxaline-8(7H)-carboxylate | 5.48 g, 87% | CN1C(CN2C=3C(=CC=CC13)[C@H]1[C@@H]2CCN(C1)C(=O)OCC)=O | C17H21N3O3
